US06699904B2
3-{4-[2-(tert-Butoxycarbonyl-heptyl-amino)-ethyl]-phenyl}-2-phenoxy-propionic acid ethyl ester:
Synthesized from 3-{4-[2-(tert-butoxycarbonyl-heptyl-amino)-ethyl]-phenyl}-2-hydroxy-propionic acid ethyl ester using a procedure analogous to that used for Example 50 and substituting phenol as the nucleophile to give an approximate 1:1 mixture of ethyl and methyl ester as a clear film (35 mg, 61%).

reactant | 3-{4-[2-(tert-butoxycarbonyl-heptyl-amino)-ethyl]-phenyl}-2-hydroxy-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)CCN(CCCCCCC)C(=O)OC(C)(C)C)O)=O | C25H41NO5
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | 3-{4-[2-(tert-Butoxycarbonyl-heptyl-amino)-ethyl]-phenyl}-2-phenoxy-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)CCN(CCCCCCC)C(=O)OC(C)(C)C)OC1=CC=CC=C1)=O | C31H45NO5
